US09290496B2
Step 4: Preparation of tert-butyl 3,3-difluoro-4-hydroxypyrrolidine-1-carboxylate
To a 500 mL flask was added 1-benzyl-4,4-difluoropyrrolidin-3-ol (4.6 g, 21.6 mmol), ethanol (200 mL) and Boc anhydride (5.65 g, 26 mmol, 1.2 mol eq). The resulting solution was degassed with nitrogen for 5 min. 20% Pd(OH)2 on carbon (500 mg) was added and the resulting mixture was stirred under hydrogen atmosphere (used 2 balloons) at ambient temperature for 20 hr. The reaction was degassed with nitrogen. The catalyst was removed by filtration. The filtrate was evaporated to give a colorless oil that was purified on silica (40 g) with gradients from 100% heptane to 30% ethyl acetate-70% heptane to give the title product as a colorless oil (3.97 g, 82% yield, >95% purity). 1H NMR (400 MHz, chloroform-d) δ ppm 4.20-4.32 (m, 1 H) 3.63-3.82 (m, 3 H) 3.39-3.58 (m, 1 H) 2.52 (d, J=3.67 Hz, 1 H) 1.47 (s, 9 H). 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −110.98-−107.93 (m, 1 F) −125.43-−121.77 (m, 1 F). m/z (APCI+) for C9H15F2NO3 124.3 (M+H)+.

reactant | 1-benzyl-4,4-difluoropyrrolidin-3-ol | 21.6 mmol, 4.6 g | C(C1=CC=CC=C1)N1CC(C(C1)(F)F)O | C11H13F2NO
reactant | Boc anhydride | 26 mmol, 5.65 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | tert-butyl 3,3-difluoro-4-hydroxypyrrolidine-1-carboxylate | 3.97 g, 82% yield | FC1(CN(CC1O)C(=O)OC(C)(C)C)F | C9H15F2NO3
